// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=4.65973e-08 rise=1.86389e-10 fall=1.86389e-10 width=7.45558e-06 period=1.49112e-05

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=1e-05
r1 (mid out) resistor r=1048.52
c1 (out 0) capacitor c=2.2e-11

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=3.72779e-06 errpreset=conservative maxstep=4.65973e-10

save in out
